US07985769B2
To a solution of (1R,2S,4R)-2-Hydroxy-4-methyl-cyclohexanecarboxylic acid methyl ester (450 mg, 2.42 mmol) in methanol (12 ml) was added a 2.5 M solution of sodium hydroxide (9.7 ml, 24.2 mmol). The reaction mixture was stirred for 4 h at 50° C. Then, the solvents were removed and the residue was partitioned between 20 ml of H2O acidified to pH 4 and 20 ml of EtOAc. The organic layer was separated and the aqueous phase was washed with ethyl acetate (2×20 ml). The combined ethyl acetate layers were dried (Na2SO4) and concentrated to obtain 313 mg (82%) of (1R,2S,4R)-2-Hydroxy-4-methyl-cyclohexanecarboxylic acid. NMR 1H (CDCl3, 400 MHz) 4.34 ppm (s, 1H); 2.43-2.39 ppm (m, 1H); 1.96-1.76 ppm (m, 5H); 1.14-1.08 ppm (m, 1H); 1.02-0.93 ppm (m, 1H); 0.90 ppm (d, 3H).

reactant | (1R,2S,4R)-2-Hydroxy-4-methyl-cyclohexanecarboxylic acid methyl ester | 2.42 mmol, 450 mg | COC(=O)[C@H]1[C@H](C[C@@H](CC1)C)O | C9H16O3
reactant | sodium hydroxide | 24.2 mmol, 9.7 ml | [OH-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
product | (1R,2S,4R)-2-Hydroxy-4-methyl-cyclohexanecarboxylic acid | 313 mg, 82% | O[C@@H]1[C@@H](CC[C@H](C1)C)C(=O)O | C8H14O3
